US07625889B2
Step 2: (R)-2-({(4-Fluoro-benzyl)-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
Sodium triacetoxyborohydride (159 mg, 0.75 mmol) and acetic acid (36 mg, 0.6 mmol) were added to a mixture of 5-(4-fluoro-3-formylphenyl)-1-trityl-1H-benzotriazole (145 mg, 0.3 mmol) and (R)-2-[(4-fluoro-benzylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (111 mg, 0.36 mmol) and 4 angstrom molecular sieves in 5 mL of dichloroethane. The mixture was stirred at ambient temperature overnight, and then it was diluted with dichloromethane, and washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with ethyl acetate/cyclohexane) provided 119 mg of product.

reactant | Sodium triacetoxyborohydride | 0.75 mmol, 159 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.6 mmol, 36 mg | C(C)(=O)O | C2H4O2
reactant | 5-(4-fluoro-3-formylphenyl)-1-trityl-1H-benzotriazole | 0.3 mmol, 145 mg | FC1=C(C=C(C=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C=O | C32H22FN3O
reactant | (R)-2-[(4-fluoro-benzylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 111 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNCC1=CC=C(C=C1)F | C17H25FN2O2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-2-({(4-Fluoro-benzyl)-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 119 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CN(CC1=C(C=CC(=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F)CC1=CC=C(C=C1)F | C49H47F2N5O2
